US03954732
By treating in the similar manner as described in Example 11 using 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate and 1-methyl-IH-tetrazole-5-thiol in a mixture of pH 6.85 phosphate buffer and acetone, there was obtained amorphous 2,2,2-trichloroethyl 2-(1-methyl-IH-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate. Infrared Absorption Spectrum (Nujol) 3300, 1780, 1770, 1665 cm-1.

reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(=O)C=2C(=NOC2C)C2=C(C=CC=C2)Cl)=O)C | C21H18BrCl4N3O5S
reactant | 1-methyl-IH-tetrazole-5-thiol | CN1N=NN=C1S | C2H4N4S
solvent | phosphate | pH 6.85 | P(=O)([O-])([O-])[O-]
solvent | acetone | CC(=O)C | C3H6O
product | 2,2,2-trichloroethyl 2-(1-methyl-IH-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate | CN1N=NN=C1SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(=O)C=2C(=NOC2C)C2=C(C=CC=C2)Cl)=O)C | C23H21Cl4N7O5S2
